US06747047B2
Step C: Preparation of 2-methyl-4-(trifluoromethyl)benzenamine
Activated Raney nickel (500 g wet paste, ˜50μ) was added portionwise to a solution of 2-[(methylthio)methyl]-4-(trifluoromethyl)benzenamine (55.3 g, 0.25 mole) in 1 L of ethanol over 30 minutes at 25-30° C. The heterogeneous mixture was stirred vigorously for 30 minutes after the addition. The sting was stopped, and the solids were allowed to settle over one hour. The liquid was decanted from the solids and poured through filter paper. The filtrate was evaporated under reduced pressure, and the residue was taken up in dichloromethane. The organic phase was separated from a small volume of water, dried over magnesium sulfate and evaporated under reduced pressure to afford 37.6 g of the title compound as amber oil.

reactant | 2-[(methylthio)methyl]-4-(trifluoromethyl)benzenamine | 0.25 mole, 55.3 g | CSCC1=C(C=CC(=C1)C(F)(F)F)N | C9H10F3NS
catalyst | Raney nickel | 500 g | [Ni] | Ni
solvent | ethanol | 1 L | C(C)O | C2H6O
product | 2-methyl-4-(trifluoromethyl)benzenamine | 37.6 g | CC1=C(C=CC(=C1)C(F)(F)F)N | C8H8F3N
